US05252251
Synthesis of 2-methyl-2-propyloxyethyl 4-[4-(6-acryloyloxyhexyloxy)benzoyloxy]benzoate (1d)
2.9 g of 4-(6-acryloxyhexyloxy)benzoic acid was heat-refluxed for 2 hours in 10 ml of thionyl chloride in the presence of 2,6-di-t-butylphenol, followed by distilling-off of the thionyl chloride. Anhydrous THF and triethylamine were added to the reaction mixture, and a solution of 1.6 g of 2-methyl-2-propyloxyethyl 4-hydroxybenzoate in THF was added dropwise thereto at 0° C., followed by 4 hours of stirring at 50° C. The reaction mixture was subjected to extraction with ethyl acetate and column chromatography to obtain 1.8 g of the product. (Yield: 59 %)

reactant | 4-(6-acryloxyhexyloxy)benzoic acid | 2.9 g | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)O)C=C1 | C16H20O5
reactant | 2,6-di-t-butylphenol | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-2-propyloxyethyl 4-hydroxybenzoate | 1.6 g | OC1=CC=C(C(=O)OCC(OCCC)C)C=C1 | C13H18O4
solvent | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
solvent | THF | C1CCOC1 | C4H8O
product | 2-methyl-2-propyloxyethyl 4-[4-(6-acryloyloxyhexyloxy)benzoyloxy]benzoate | 1.8 g, Yield: 59 % | C(C=C)(=O)OCCCCCCOC1=CC=C(C(=O)OC2=CC=C(C(=O)OCC(OCCC)C)C=C2)C=C1 | C29H36O8
